US05639913
A mixture of 272 ml of toluene and 199.5 g benzylamine was prepared and heated to 90° C. The chlorindan was added dropwise to the mixture over a 30 minute period. The reaction mixture was heated to 115° C. for ten hours. The reaction mixture was cooled to ambient temperature and 300 ml of water was added. The resulting heterogeneous mixture was then brought to pH 2.2 by the addition of 33% H2SO4. The phases were separated and the organic layer discarded. The pH of the aqueous layer was adjusted to pH 6.0 prior to extraction with 300 ml of toluene. A further 100 ml of toluene was then added and the aqueous phase discarded. The toluene was removed under vacuo from the combined organic layer leaving 104.3 g racemic N-benzyl-1-aminoindan base as an,oil (72.5% yield).

reactant | toluene | 272 ml | C1(=CC=CC=C1)C | C7H8
reactant | benzylamine | 199.5 g | C(C1=CC=CC=C1)N | C7H9N
reactant | chlorindan | ClC1CCC2=CC=CC=C12 | C9H9Cl
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | water | 300 ml | O | H2O
product | racemic N-benzyl-1-aminoindan | 104.3 g, 72.5% yield | C(C1=CC=CC=C1)NC1CCC2=CC=CC=C12 | C16H17N
